US05498774
Synthesis of ethyl 2-ethoxycarbonyl-imidazo[1,2-a]pyridine-8-carboxylate (Compound No. 1-123)
A mixture of ethyl bromopyruvate (2.3 g, 10.2 m mol and ethyl 2-aminonicotinate (1.7 g, 10 m mol) in methyl ethyl ketone (17 ml) was refluxed for 5 hours. After completion of the reaction, the mixture was cooled to room temperature and distilled under reduced pressure to remove the solvent. The residue to which saturated sodium hydrogen carbonate aqueous solution (50 ml) was added was extracted with chloroform (100 ml×3). The extract was washed with water, dried over MgSO4 and concentrated under reduced pressure. The concentrate was purified by silica gel column chromatography (eluent: ethyl acetate) to give the object compound (0.7 g, yield 26.7%) as crystals. m.p. 97° C.

reactant | ethyl bromopyruvate | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ethyl 2-aminonicotinate | 1.7 g | NC1=C(C(=O)OCC)C=CC=N1 | C8H10N2O2
solvent | methyl ethyl ketone | 17 ml | C(C)C(=O)C | C4H8O
product | ethyl 2-ethoxycarbonyl-imidazo[1,2-a]pyridine-8-carboxylate | 0.7 g, yield 26.7% | C(C)OC(=O)C=1N=C2N(C=CC=C2C(=O)OCC)C1 | C13H14N2O4
